US08471005B2
Into a seal vessel, 4-Fluoro-2-methoxy-1-nitro-benzene (15.00 g, 87.65 mmol), 1.00 M of Potassium tert-Butoxide in Tetrahydrofuran (193 mL, 193 mmol), and t-Butyl cyanoacetate (24.7 g, 175 mmol) were added. The reaction mixture was heated at 80° C. for 4 hours. The reaction was cooled to room temperature. Acetic acid (10.96 mL, 192.8 mmol) was added. The reaction was partitioned with water and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc. The collected fractions afforded an orange collected fractions afforded Cyano-(3-methoxy-4-nitro-phenyl)-acetic acid tert-butyl ester as an orange solid (12.8 g, 49%).

reactant | 4-Fluoro-2-methoxy-1-nitro-benzene | 87.65 mmol, 15.00 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | Potassium tert-Butoxide | 1.00 M | CC(C)([O-])C.[K+]
reactant | Tetrahydrofuran | 193 mmol, 193 mL | O1CCCC1 | C4H8O
reactant | t-Butyl cyanoacetate | 175 mmol, 24.7 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | Acetic acid | 192.8 mmol, 10.96 mL | C(C)(=O)O | C2H4O2
product | Cyano-(3-methoxy-4-nitro-phenyl)-acetic acid tert-butyl ester | 12.8 g, 49% | C(C)(C)(C)OC(C(C1=CC(=C(C=C1)[N+](=O)[O-])OC)C#N)=O | C14H16N2O5
